US07709645B2
25.0 mg (0.046 mmol) of 2-amino-3-chloro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid was combined with 18.5 mg (0.114 mmol) of N,N′-carbonyldiimidazole in 1.0 mL dimethylformamide. The solution was stirred at room temperature for 2 hours whereupon 9.9 μL (0.114 mmol) of morpholine was added and the solution was stirred at room temperature for 16 hours. The crude reaction mixture was then diluted with 1.0 mL methanol and 100 μL of 50% w/v potassium hydroxide aqueous solution was added. The mixture was stirred at room temperature for 2 hours and then neutralized with acetic acid. The material was filtered through a 0.45 μm syringe filter and purified by mass-triggered reverse phase HPLC in a gradient of acetonitrile and water (containing 0.1% formic acid). The clean fractions were lyophilized to afford 6.9 mg (0.015 mmol, 32% yield) of {2-amino-3-chloro-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-morpholin-4-yl-methanone as a fluffy white powder. 1H NMR (500 MHz, MeOD) δ 8.39 (d, 1H), 8.15 (d, 1H), 7.65 (s, 1H), 7.64 (d, 1H), 7.58 (dd, 1H), 7.36 (d, 1H), 7.31 (t, 1H), 7.13 (d, 1H), 7.06 (t, 1H), 3.86 (s, 3H), 3.72 (s, br., 8H); MS: m/z 463.0 (M+H+).

reactant | 2-amino-3-chloro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.046 mmol, 25.0 mg | NC1=C(C(=O)O)C=C(C=C1Cl)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C28H22ClN3O5S
reactant | morpholine | 0.114 mmol, 9.9 μL | N1CCOCC1 | C4H9NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | methanol | 1.0 mL | CO | CH4O
product | {2-amino-3-chloro-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-morpholin-4-yl-methanone | 0.015 mmol, 6.9 mg, 32% yield | NC1=C(C=C(C=C1Cl)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)C(=O)N2CCOCC2 | C25H23ClN4O3
